US06331506B1
5.7 g (0.02 mol) of methyl 4-amino-2-(N-tert-butylsulfamoyl)benzoate are suspended in a mixture of 30 ml of conc. HCl and 36 ml of water. At 0-50° C., a solution of 1.5 g (0.022 mol) of sodium nitrite in 9 ml of water is added dropwise. The few undissolved components are filtered off cold, and the cold diazonium salt solution is slowly poured, at 5-10° C., into a mixture of 8.9 g (0.11 mol) of sodium acetate, 16 ml of water, 60 ml of ethanol and 2.7 g (0.02 mol) of ethyl nitroacetate. Stirring is continued at 0° C. for 2 h and the mixture is left to stand at this temperature for 15 h. The mixture is filtered off and the solid is washed with water and dried under reduced pressure, giving 5.2 g (60% of theory) of methyl 2-(N-tert-butylsulfamoyl)-4-(ethoxycarbonylnitromethylenehydrazino)benzoate of m.p. 142-145° C.

reactant | methyl 4-amino-2-(N-tert-butylsulfamoyl)benzoate | 0.02 mol, 5.7 g | NC1=CC(=C(C(=O)OC)C=C1)S(NC(C)(C)C)(=O)=O | C12H18N2O4S
reactant | sodium nitrite | 0.022 mol, 1.5 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 0.11 mol, 8.9 g | C(C)(=O)[O-].[Na+]
reactant | ethyl nitroacetate | 0.02 mol, 2.7 g | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | HCl | 30 ml | Cl | ClH
solvent | water | 36 ml | O | H2O
solvent | water | 9 ml | O | H2O
solvent | water | 16 ml | O | H2O
product | methyl 2-(N-tert-butylsulfamoyl)-4-(ethoxycarbonylnitromethylenehydrazino)benzoate | 5.2 g, 60% | C(C)(C)(C)NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)N(N=C[N+](=O)[O-])C(=O)OCC | C16H22N4O8S
